US08404682B2
N-(Tetrahydro-2H-pyran-4-yl)-[2,1,3]-benzoxadiazole-5-carboxamide
A mixture of hydroxylamine hydrochloride (5.56 g), sodium acetate (6.56 g) and tetrahydro-4H-pyran-4-one (4 g, 40 mmol) in ethanol (100 ml) was refluxed over night. The solids were filtered off and the solvent evaporated. The remaining material was suspended in 100 ml of dry THF and decanted. LiAlH4 (6.07 g) was slowly added and the mixture was refluxed for 1 hour. The cooled mixture was quenched with 10% sodium hydroxide solution, celite was added, and the solids were filtered off. The solvent was evaporated and the residue re-dissolved in dichloromethane (10 ml) and triethylamine (1 ml). This mixture was slowly added to a solution of [2,1,3]-benzoxadiazole-5-carbonylchloride (365 mg, 2.0 mmol) in dichloromethane (10 ml) and stirred at room temperature for 0.5 h. The mixture was washed with 1N HCl (100 ml) and NaHCO3 (100 ml) solution and the aqueous re-extracted with dichloromethane (100 ml). The combined organics were dried over magnesium sulfate, and concentrated under vacuum to give a white solid (410 mg). Mp=204-205° C., 1H NMR (300 MHz, CDCl3) δ 8.20-8.18 (m, 1H), 7.92 (dd, 1H, J=9.3 and 1.2 Hz); 7.82 (dd, 1H, J=9.3 and 1.2 Hz); 6.25-6.10 (m, NH, 1H); 4.33-4.17 (m, 1H), 4.07-4.00 (m, 2H), 3.59-3.51 (m, 2H), 2.07-2.03 (m, 2H) and 1.69-1.58 ppm (m, 2H).

reactant | hydroxylamine hydrochloride | 5.56 g | Cl.NO
reactant | sodium acetate | 6.56 g | C(C)(=O)[O-].[Na+]
reactant | tetrahydro-4H-pyran-4-one | 40 mmol, 4 g | O1CCC(CC1)=O | C5H8O2
reactant | [2,1,3]-benzoxadiazole-5-carbonylchloride | 2.0 mmol, 365 mg | N=1ON=C2C1C=CC(=C2)C(=O)Cl | C7H3ClN2O2
solvent | ethanol | 100 ml | C(C)O | C2H6O
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | N-(Tetrahydro-2H-pyran-4-yl)-[2,1,3]-benzoxadiazole-5-carboxamide | 410 mg | O1CCC(CC1)NC(=O)C1=CC=2C(=NON2)C=C1 | C12H13N3O3
